US07435837B2
Treatment of (±)-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (13.74 g, 34.8 mmol) with sodium azide (9.05 g, 0.139 mol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran. Treatment of the azide with triphenylphoshine (9.13 g, 34.8 mmol) generally according to the procedure described for Example 21 afforded 4.43 (46 of (±)-1-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 229-231° C.; Anal. calcd. for C13H18ClNOHCl: C, 56.53; H, 6.93; N, 5.07. Found: C, 56.49; H, 6.71; N, 4.86.

reactant | (±)-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 34.8 mmol, 13.74 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C(C)(C)C)Cl | C20H23ClO4S
reactant | sodium azide | 0.139 mol, 9.05 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C(C)(C)C)Cl | C13H16ClN3O
reactant | azide | [N-]=[N+]=[N-]
reactant | triphenylphoshine | 34.8 mmol, 9.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-1-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methanamine | C(C)(C)(C)C1=CC(=CC=2CC(OC21)CN)Cl | C13H18ClNO
